US09079866B2
4′-(5-Amino-6-chloropyrazin-2-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide
To a 25 mL round-bottomed flask were added a stirbar, 52 mg (0.13 mmol) 4′-(5-aminopyrazin-2-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide, 27 mg (0.20 mmol) N-chlorosuccinamide, and dry DMF (2.0 mL). The flask was sparged with nitrogen and heated at 60° Celsius for 18 hours before cooling to rt and subjecting the reaction mixture (after syringe filtration) to HPLC purification to give the title compound (29.6 mg, 52%). MS (ESI): mass calcd. for C20H20ClFN4O2S, 434.10; m/z found, 435.1 [M+H]+. 1H NMR (600 MHz, DMSO-d6) δ 8.44 (d, J=2.0, 1H), 8.06 (dd, J=8.1, 1.5, 1H), 7.85 (dd, J=9.4, 6.8, 1H), 7.70-7.64 (m, 1H), 7.64-7.57 (m, 1H), 7.43-7.27 (m, 3H), 7.13 (s, 2H), 6.98 (d, J=3.7, 1H), 1.02 (s, 9H).

reactant | 4′-(5-aminopyrazin-2-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide | 0.13 mmol, 52 mg | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F | C20H21FN4O2S
reactant | N-chlorosuccinamide | 0.20 mmol, 27 mg | ClNC(CCC(=O)N)=O | C4H7ClN2O2
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 4′-(5-Amino-6-chloropyrazin-2-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide | 29.6 mg, 52% | NC=1N=CC(=NC1Cl)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F | C20H20ClFN4O2S
